US09024093B2
N-Boc-4-(Tributylstannyl)-L-phenylalanyl-L-phenylalanine Methyl Ester (S73)
To N-Boc-4-(tributylstannyl)-L-phenylalanine (1.67 g, 3.00 mmol, 1.00 equiv) and L-phenylalanine methyl ester hydrochloride (647 mg, 3.00 mmol, 1.00 equiv) in CH2Cl2 (30 mL) at 0° C. was added EDCI (1.15 g, 6.00 mmol, 2.00 equiv), HOBt (810 mg, 6.00 mmol, 2.00 equiv), n,n-diisopropylethyl amine (1.56 mL, 9.00 mmol, 3.00 equiv) and 4-(Dimethylamino)pyridine (36 mg, 0.30 mmol, 0.10 equiv). After stirring for 1 hr at 0° C., the reaction mixture was allowed to stirred at room temperature for 12 hr. The reaction mixture was quenched with water (20 mL), and CH2Cl2 (10 mL) was added. The phases were separated and the aqueous phase was extracted with CH2Cl2 (2×10 mL). The combined organic phases were washed with brine (10 mL) and dried (Na2SO4). concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with hexane/EtOAc 3:1 (v/v) to afford 1.72 g of the title compound as a white foam (80% yield).

reactant | N-Boc-4-(tributylstannyl)-L-phenylalanine | 3.00 mmol, 1.67 g, 1.00 equiv | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC)C(=O)O
reactant | L-phenylalanine methyl ester hydrochloride | 3.00 mmol, 647 mg, 1.00 equiv | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | EDCI | 6.00 mmol, 1.15 g, 2.00 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 6.00 mmol, 810 mg, 2.00 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-(Dimethylamino)pyridine | 0.30 mmol, 36 mg, 0.10 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | N-Boc-4-(Tributylstannyl)-L-phenylalanyl-L-phenylalanine Methyl Ester | 1.72 g, 80% yield | COC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC)=O)CC1=CC=CC=C1)=O | InChI=1S/C24H29N2O5.3C4H9.Sn/c1-24(2,3)31-23(29)26-19(15-17-11-7-5-8-12-17)21(27)25-20(22(28)30-4)16-18-13-9-6-10-14-18;3*1-3-4-2;/h6-14,19-20H,15-16H2,1-4H3,(H,25,27)(H,26,29);3*1,3-4H2,2H3;/t19-,20-;;;;/m0..../s1
